US06008237
Step B: Preparation of Ethyl 4-(3-bromopropoxy)mandelate
A solution of ethyl 4-hydroxymandelate (19.6 g, 0.1 mol), 1,3-dibromopropane (60.75 g, 0.3 mol) and cesium carbonate (35.75 g, 0.11 mol) in dry DMF (200 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and 1.0 N HCl. The organic layer was washed twice with water, once with brine and then dried over sodium sulfate. The organic layer was then filtered and the solvent remove in vacuo. The resulting oil was chromatographed on silica gel, using a gradient of 100% hexane to methylene chloride/hexane (2:1) to yield the titled compound.

reactant | ethyl 4-hydroxymandelate | 0.1 mol, 19.6 g | OC1=CC=C(C(C(=O)OCC)O)C=C1 | C10H12O4
reactant | 1,3-dibromopropane | 0.3 mol, 60.75 g | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 0.11 mol, 35.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Ethyl 4-(3-bromopropoxy)mandelate | BrCCCOC1=CC=C(C(C(=O)OCC)O)C=C1 | C13H17BrO4
